US08030500B2
1-(3-Bromophenyl)-4-fluoro-1-(5-methoxy-4,6-dimethylpyridin-2-yl)-1H-isoindol-3-amine
tert-Butyllithium (1.040 mL, 1.77 mmol) was added dropwise to THF (5 mL) at −100° C. under an argon atmosphere. A solution of 6-bromo-3-methoxy-2,4-dimethylpyridine (191 mg, 0.88 mmol) in THF (3 ml) was added dropwise followed by the addition of (E)-N-((3-bromophenyl)(2-cyano-3-fluorophenyl)methylene)-2-methylpropane-2-sulfinamide (300 mg, 0.74 mmol) in THF (7 ml). The resulting reaction mixture was left on the thawing cooling bath for 30 min then the cooling bath was removed and the mixture was stirred at r.t. for 1 h. Hydrogen chloride-methanol solution (3.54 mL, 4.42 mmol) was added and the resulting mixture was stirred at r.t. for 1 h. The mixture was concentrated under reduced pressure and the residue was purified on a silica gel column eluted with 0-10% 0.1 M NH3 in MeOH in DCM to give the title compound (272 mg, 84%). MS (ES+) m/z 440, 442 [M+1]+.

reactant | tert-Butyllithium | 1.77 mmol, 1.040 mL | C(C)(C)(C)[Li]
reactant | 6-bromo-3-methoxy-2,4-dimethylpyridine | 0.88 mmol, 191 mg | BrC1=CC(=C(C(=N1)C)OC)C | C8H10BrNO
reactant | (E)-N-((3-bromophenyl)(2-cyano-3-fluorophenyl)methylene)-2-methylpropane-2-sulfinamide | 0.74 mmol, 300 mg | BrC=1C=C(C=CC1)/C(=N\S(=O)C(C)(C)C)/C1=C(C(=CC=C1)F)C#N | C18H16BrFN2OS
reactant | Hydrogen chloride methanol | 4.42 mmol, 3.54 mL | Cl.CO
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 7 ml | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-(3-Bromophenyl)-4-fluoro-1-(5-methoxy-4,6-dimethylpyridin-2-yl)-1H-isoindol-3-amine | 272 mg, 84% | BrC=1C=C(C=CC1)C1(N=C(C2=C(C=CC=C12)F)N)C1=NC(=C(C(=C1)C)OC)C | C22H19BrFN3O
